US09023847B2
99. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-2-phenyl-ethyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using 2-amino-1-phenyl ethanol instead of tert-butyl-2-amino ethyl carbamate. LCMS (ESI) 379 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.17 (1H, s) 8.07 (1H, t, J=5.37 Hz) 8.02 (1H, d, J=5.47 Hz) 7.77 (1H, d, J=5.47 Hz) 7.45 (1H, d, J=5.27 Hz) 7.27-7.38 (6H, m) 7.18-7.26 (1H, m) 6.79 (1H, d, J=5.47 Hz) 6.44 (1H, d, J=3.51 Hz) 5.51 (1H, d, J=3.90 Hz) 4.77 (1H, ddd, J=7.86, 4.30, 4.05 Hz) 3.47 (1H, dt, J=13.13, 5.15 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | 2-amino-1-phenyl ethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-hydroxy-2-phenyl-ethyl)-amide | OC(CNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)C2=CC=CC=C2 | C20H18N4O2S
